US08431588B2
Step 1: 1-((6aR,8R,9R,9aS)-9-hydroxy-2,2,4,4-tetraisopropyl-6a,8,9,9a-tetrahydro-6H-furo[3,2-f][1,3,5,2,4]trioxadisilocin-8-yl)pyrimidine-2,4(1H,3H)-dione (1-1)
A mixture of D-uridine (20 g) and 1,3-dichloro-1,1,3,3-tetraisopropyldisiloxane (1.018 eq) in pyridine (300 mL) was stirred at room temperature for 64 hours. Pyridine was removed in vacuo (30° C.). The residue was redissolved in 100 mL CH2Cl2, washed with water (3×75 mL), dried with anhydrous MgSO4 and filtered. The filtrate was evaporated to dryness and used as such in the next reaction. LC-MS: Rt: 3.16 min, m/z: 487 (M+H)+.

reactant | D-uridine | 20 g | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)CO)O)O | C9H12N2O6
reactant | 1,3-dichloro-1,1,3,3-tetraisopropyldisiloxane | 1.018 eq | Cl[Si](O[Si](C(C)C)(C(C)C)Cl)(C(C)C)C(C)C | C12H28Cl2OSi2
solvent | pyridine | 300 mL | N1=CC=CC=C1 | C5H5N
product | 1-((6aR,8R,9R,9aS)-9-hydroxy-2,2,4,4-tetraisopropyl-6a,8,9,9a-tetrahydro-6H-furo[3,2-f][1,3,5,2,4]trioxadisilocin-8-yl)pyrimidine-2,4(1H,3H)-dione | O[C@H]1[C@@H](O[C@H]2[C@H]1O[Si](O[Si](OC2)(C(C)C)C(C)C)(C(C)C)C(C)C)N2C(NC(C=C2)=O)=O | C21H38N2O7Si2
